US09315458B2
G) 1-{4-[(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)methyl]phenyl}-1H-pyrazole
To a solution of 1-[4-(chloromethyl)phenyl]-1H-pyrazole (2.20 g) in 1,4-dioxane (50.0 mL) were added bis(pinacolato)diboron (3.47 g), potassium acetate (3.35 g) and [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) dichloromethane adduct (0.47 g), and the mixture was stirred at 90° C. for 16 hr under argon atmosphere. The reaction mixture was allowed to be cooled to room temperature, and filtered, and the solvent was evaporated under reduced pressure from the filtrate. The residue was purified by silica gel column chromatography (ethyl acetate/petroleum ether) to give the title compound (3.10 g).

reactant | 1-[4-(chloromethyl)phenyl]-1H-pyrazole | 2.20 g | ClCC1=CC=C(C=C1)N1N=CC=C1 | C10H9ClN2
reactant | bis(pinacolato)diboron | 3.47 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 3.35 g | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 50.0 mL | O1CCOCC1 | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) dichloromethane | 0.47 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].ClCCl
product | 1-{4-[(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)methyl]phenyl}-1H-pyrazole | 3.10 g | CC1(OB(OC1(C)C)CC1=CC=C(C=C1)N1N=CC=C1)C | C16H21BN2O2
